US06727256B1
(6-(5-(1,3-Dioxolan-2-yl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-(4-(3-fluorobenzyloxy)-phenyl)-amine
(6-Chloropyrido[3,4-d]pyrimidin-4-yl)-(4-(3-fluorobenzyloxy)-phenyl)-amine (1.85 g) and 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)-furan (3.82 g) in dioxan (40 ml) were reacted together as in Procedure B. The mixture was evaporated and the residue suspended in dichloromethane. This was then filtered through Celite® and the solvent evaporated. The gummy residue was then triturated with hexane giving a beige solid (1.74 g); m/z 485 (M+1)+.

reactant | (6-Chloropyrido[3,4-d]pyrimidin-4-yl)-(4-(3-fluorobenzyloxy)-phenyl)-amine | 1.85 g | ClC1=CC2=C(N=CN=C2NC2=CC=C(C=C2)OCC2=CC(=CC=C2)F)C=N1 | C20H14ClFN4O
reactant | 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)-furan | 3.82 g | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | (6-(5-(1,3-Dioxolan-2-yl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-(4-(3-fluorobenzyloxy)-phenyl)-amine | O1C(OCC1)C1=CC=C(O1)C1=CC2=C(N=CN=C2NC2=CC=C(C=C2)OCC2=CC(=CC=C2)F)C=N1 | C27H21FN4O4
